US09353107B2
Intermediate 59: 1-phenethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a stirred solution 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (300 mg, 1.5463 mmol) in DMF (2 ml) cooled at 0° C. was added sodium hydride (124 mg, 3.0927 mmol) and stirred at 0° C. for further 20 min. Phenethyl bromide (344 mg, 1.8556 mmol) was then added drop wise and stirred the reaction at RT for 3 hrs. The reaction mixture was diluted with ice water (150 ml) and extracted with dichloromethane (2×50 ml). The organic layer was dried over Na2SO4 and concentrated under reduced pressure to afford 300 mg (43.47% yield) of the titled compound. MS: m/z=299.4 (M+1). 1H NMR (CDCl3, 300 MHz): δ 7.81 (s, 1H), 7.54 (s, 1H), 7.29-7.21 (m, 2H), 7.10-7.08 (d, 1H), 4.35-4.30 (t, 2H), 3.19-3.14 (t, 2H), 1.28 (s, 12H).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.5463 mmol, 300 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | sodium hydride | 3.0927 mmol, 124 mg | [H-].[Na+]
reactant | Phenethyl bromide | 1.8556 mmol, 344 mg | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-phenethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 300 mg, 43.47% yield | C(CC1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H23BN2O2
